US04544654
N-[4-[[2-(Diethylamino)ethyl]aminocarbonyl]phenyl]benzenemethanesulfonamide hydrochloride
To a solution of 7.1 g (0.026 moles) of procainamide hydrochloride in 100 ml acetone and 5 ml triethylamino at -50° C., is added slowly 5.0 g (0.026 moles) of α-toluenesulfonyl chloride. Stir at -50° C. for 1 hour, then warm to room temperature and stir for 16 hours. Remove the solvent in vacuo. Slurry the residue in 200 ml ether, and wash 2×100 ml portions of methylene chloride. The combined methylene chloride extracted are vacuum stripped to dryness. The residue is dissolved in 100 ml ethanol and brought to pH 3 with concentrated hydrochloric acid. The solvent is removed in vacuo, and the residue triturated with methylene-chloride to provide the title compound.

reactant | procainamide hydrochloride | 0.026 moles, 7.1 g | CCN(CC)CCNC(=O)C=1C=CC(=CC1)N.Cl
reactant | α-toluenesulfonyl chloride | 0.026 moles, 5.0 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-[4-[[2-(Diethylamino)ethyl]aminocarbonyl]phenyl]benzenemethanesulfonamide hydrochloride | Cl.C(C)N(CCNC(=O)C1=CC=C(C=C1)NS(=O)(=O)CC1=CC=CC=C1)CC | InChI=1S/C20H27N3O3S.ClH/c1-3-23(4-2)15-14-21-20(24)18-10-12-19(13-11-18)22-27(25,26)16-17-8-6-5-7-9-17;/h5-13,22H,3-4,14-16H2,1-2H3,(H,21,24);1H
